data/my_data/train.txt
[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]([NH:9][C:10]([O:11][C:12]([NH:13][CH:14]2[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]2)=[NH+:20][CH:21]2[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]2)([CH2:27][CH2:28][c:29]2[c:30]3[n:31][cH:32][n:33][c:34]([N:35]([CH3:36])[c:37]4[cH:38][cH:39][cH:40][cH:41][cH:42]4)[n:43]3[n:44][cH:45]2)[O-:46])[cH:47][cH:48]1>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]([NH:9][C:10]([CH2:27][CH2:28][c:29]2[c:30]3[n:31][cH:32][n:33][c:34]([N:35]([CH3:36])[c:37]4[cH:38][cH:39][cH:40][cH:41][cH:42]4)[n:43]3[n:44][cH:45]2)=[O:46])[cH:47][cH:48]1.[O-:11][C:12]([NH:13][CH:14]1[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]1)=[NH+:20][CH:21]1[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]1
[C:1](=[NH+:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[O:16]=[C:17]([O-:18])[c:19]1[cH:20][cH:21][c:22]2[cH:23][c:24]([Br:25])[cH:26][cH:27][c:28]2[cH:29]1.NC1CC1>>[C:1]([NH:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)(=[N:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:18][C:17](=[O:16])[c:19]1[cH:20][cH:21][c:22]2[cH:23][c:24]([Br:25])[cH:26][cH:27][c:28]2[cH:29]1.NC1CC1
[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[n:7][n:8]([CH3:9])[c:10]2[c:11]1[CH2:12][CH2:13][c:14]1[cH:15][n:16][c:17]([O:18][CH3:19])[n:23][c:24]1-2.[Br:21][B:20]([Br:22])[Br:25].[OH2:26]>>[CH3:1][CH2:2][O:3][C:4](=[O:5])[c:6]1[n:7][n:8]([CH3:9])[c:10]2[c:11]1[CH2:12][CH2:13][c:14]1[cH:15][n:16][c:17]([O+:18]([CH3:19])[B:20]([Br:21])[Br:22])[n:23][c:24]1-2.[Br-:25].[OH2:26]
[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[NH+:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][c:17]1[cH:18][cH:19][c:20]2[n:21][cH:22][c:23]([C:24](=[O:25])[O-:26])[c:27](=[O:28])[n:29]2[cH:30]1.NC1CCCC1>>[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)([NH:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:26][C:24]([c:23]1[cH:22][n:21][c:20]2[cH:19][cH:18][c:17]([CH3:16])[cH:30][n:29]2[c:27]1=[O:28])=[O:25].NC1CCCC1
[O-:1][C:2](=[NH+:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.CC1=C(C(=O)Nc2cc3cn[nH]c3cc2F)C(c2ccc(C(F)(F)F)cc2)CC(=O)N1>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.CC1=C(C(=O)Nc2cc3cn[nH]c3cc2F)C(c2ccc(C(F)(F)F)cc2)CC(=O)N1
[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][NH+:6]([CH2:7][c:8]2[cH:9][cH:10][c:11]([O:12][CH3:13])[cH:14][cH:15]2)[N:16]=[C:17]1[c:18]1[cH:19][cH:20][cH:21][c:22]([N+:23](=[O:24])[OH:25])[cH:26]1.[Cl-:27]>>[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][n:6]([CH2:7][c:8]2[cH:9][cH:10][c:11]([O:12][CH3:13])[cH:14][cH:15]2)[N:16]=[C:17]1[c:18]1[cH:19][cH:20][cH:21][c:22]([N+:23](=[O:24])[OH:25])[cH:26]1.[ClH:27]
[O-:1][C:2](=[NH+:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.O=C(Nc1ccccn1)C(CC1CCCC1)c1ccc(Cl)c([N+](=O)O)c1>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.O=C(Nc1ccccn1)C(CC1CCCC1)c1ccc(Cl)c([N+](=O)O)c1
[NH:1]([OH:2])[C:3]([C:4]([CH3:5])([CH3:6])[CH3:7])([OH:8])[CH2:9][S:10][CH:11]([F:12])[F:13].[OH3+:14]>>[NH:1]([OH:2])[C:3]([C:4]([CH3:5])([CH3:6])[CH3:7])([OH2+:8])[CH2:9][S:10][CH:11]([F:12])[F:13].[OH2:14]
[CH3:1][CH2:2][O:3][CH:4]([O-:5])[CH2:6][CH2:7][CH2:8][c:9]1[s:10][c:11]([CH:12]([CH2:13][CH3:14])[c:15]2[cH:16][cH:17][c:18]([CH2:19][CH:20]([CH3:21])[CH3:22])[cH:23][cH:24]2)[n:25][c:26]1[OH:27].[AlH3].[AlH4-].[OH3+]>>[CH3:1][CH2:2][O-:3].[CH:4](=[O:5])[CH2:6][CH2:7][CH2:8][c:9]1[s:10][c:11]([CH:12]([CH2:13][CH3:14])[c:15]2[cH:16][cH:17][c:18]([CH2:19][CH:20]([CH3:21])[CH3:22])[cH:23][cH:24]2)[n:25][c:26]1[OH:27].[AlH3].[AlH4-].[OH3+]
[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)=[NH+:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1.[CH3:16][C@H:17]([O:18][c:19]1[cH:20][n:21][c:22]([C:23](=[O:24])[O-:25])[n:26][c:27]1-[c:28]1[cH:29][cH:30][c:31]([Cl:32])[cH:33][cH:34]1)[C:35]([F:36])([F:37])[F:38].NCc1cc(C(F)(F)F)no1>>[C:1](=[N:2][CH:3]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)([NH:9][CH:10]1[CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[O:25][C:23]([c:22]1[n:21][cH:20][c:19]([O:18][C@@H:17]([CH3:16])[C:35]([F:36])([F:37])[F:38])[c:27](-[c:28]2[cH:29][cH:30][c:31]([Cl:32])[cH:33][cH:34]2)[n:26]1)=[O:24].NCc1cc(C(F)(F)F)no1
[AlH4-:15].[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([C:12]#[N:13])[cH:14]1.[AlH4-].[OH3+]>>[AlH3:15].[CH3:1][O:2][CH:3]([O-:4])[c:5]1[cH:6][cH:7][c:8]([O:9][CH3:10])[c:11]([C:12]#[N:13])[cH:14]1.[AlH4-].[OH3+]
[O-:1][C:2](=[NH+:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.Nc1nccc(C(=O)NCc2cnc(OCC(F)(F)F)c(Cl)c2)n1>>[O:1]=[C:2]([NH:3][CH:4]1[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[NH:10][CH:11]1[CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.Nc1nccc(C(=O)NCc2cnc(OCC(F)(F)F)c(Cl)c2)n1
